US05849759
To 2-methyl-6-(tert-butyldimethylsilyl)oxy-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole (3 g) in THF (50 mL) was added Bu4NF (4 mL, 1M)) at ambient temperature. After stirring at ambient temperature for 30 minutes the solvent was removed. The reaction was worked up between ethyl acetate and H2O. The organic layer was dried, concentrated and purified by silica gel chromatography (hexane/ethyl acetate/CH2Cl2 /methanol, gradient) to afford 2-methyl-6-hydroxy-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole.

reactant | 2-methyl-6-(tert-butyldimethylsilyl)oxy-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole | 3 g | CC1=NC2=C(N1CC1=CC=C(C3=CC=CC=C13)C#N)C=C(C(=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C | C36H46N4O4Si
reactant | Bu4NF | 1M, 4 mL | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-methyl-6-hydroxy-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole | CC1=NC2=C(N1CC1=CC=C(C3=CC=CC=C13)C#N)C=C(C(=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)O | C30H32N4O4
